US04096264
A suspension of 1.0 g. (0.0033 moles) of 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine in 35 ml. of tetrahydrofuran under a argon atmosphere is treated dropwise with 1.35 ml. of a 2.45 molar solution of butyllithium in hexane at -20° C. The resultant solution is stirred for 5 minutes and 0.469 g. (0.0033 moles) of methyliodide is added. The reaction mixture is allowed to warm to room temperature and stirred for 30 minutes. The solution is diluted with ice water and the solids are collected by filtration, washed with water and dried. The solid materials is chromatographed on silica gel and eluted with 1:99 methanol in methylene chloride affording 2-[methyl-N-(methoxycarbonyl)amino]-6-(phenylthio) imidazo [1,2-a] pyridine m.p. 147°-149° C.

reactant | 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 0.0033 moles | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | butyllithium | C(CCC)[Li]
reactant | methyliodide | 0.0033 moles | CI | CH3I
solvent | hexane | CCCCCC | C6H14
product | 2-[methyl-N-(methoxycarbonyl)amino]-6-(phenylthio) imidazo [1,2-a] pyridine | CN(C(=O)OC)C=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C16H15N3O2S
